US06884814B2
Step c) 2,5-Dipropylphenol.
To a solution of 1-[2-(methoxymethoxy)-4-propylphenyl]propan-1-ol (12.7 g, 53.3 mmol) and triethylsilane (21.3 mL, 133 mmol) in CH2Cl2 (120 mL) at 0° C. was added trifluoroacetic acid (16.4 mL, 213 mmol) slowly with an outlet needle attached to the round-bottom flask. The solution was stirred at 0° C. for 5 min and then at room temperature for 14 h. Water (40 mL) was added and the mixture was stirred at room temperature for 2 h. Extraction in CH2Cl2 (2×150 mL) with 50% saturated brine (5×100 mL) removed all of the trifluoroacetic acid. Flash chromatography with silica gel (gradient to 5% EtOAc/hexanes) furnished the title compound as a light green liquid (3.60 g, 38% yield): 1H NMR (300 MHz, CDCl3) δ 0.93 (t, 3H, J=7.3 Hz), 0.97 (t, 3H, J=7.3 Hz), 1.62 (m, 4H), 2.52 (m, 4H), 4.58 (s, 1H), 6.60 (s, 1H), 6.69 (d, 1H, J=7.6 Hz), 7.01 (d, 1H, J=7.6 Hz); MS m/e 179 (M+H)+.

reactant | 1-[2-(methoxymethoxy)-4-propylphenyl]propan-1-ol | 53.3 mmol, 12.7 g | COCOC1=C(C=CC(=C1)CCC)C(CC)O | C14H22O3
reactant | triethylsilane | 133 mmol, 21.3 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 213 mmol, 16.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 40 mL | O | H2O
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | 2,5-Dipropylphenol | 3.60 g, 38% yield | C(CC)C1=C(C=C(C=C1)CCC)O | C12H18O
